US05026707
To 75 ml of toluene were added 3.52 g (20 mmol) of 8-methoxy-2-tetralone followed by 2.5 g of pyrrolidine. The mixture was heated to reflux for three hours after which the solvent was evaporated in vacuo to give 3-pyrrolidino-5-methoxy-1,2-dihydronaphthalene as a dark oil.

reactant | 8-methoxy-2-tetralone | 20 mmol, 3.52 g | COC=1C=CC=C2CCC(CC12)=O | C11H12O2
reactant | pyrrolidine | 2.5 g | N1CCCC1 | C4H9N
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 3-pyrrolidino-5-methoxy-1,2-dihydronaphthalene | N1(CCCC1)C=1CCC2=CC=CC(=C2C1)OC | C15H19NO
